US07968570B2
A mixture of 5-aminomethyl-2-(4-trifluoromethoxy-benzyl)-7-trifluoromethyl-2,3-dihydro-isoindol-1-one (0.040 g, 0.1 mmol), paraformaldehyde (0.025 g), acetone (0.5 mL), NaCNBH3 (0.013 g, 0.2 mmol), and anhydrous MgSO4 (0.050 g) in MeOH (6 mL) was stirred for 6 h. Workup and silica gel column chromatography using 10:1 CHCl3-MeOH afforded 5-[(isopropyl-methyl-amino)-methyl]-2-(4-trifluoromethoxy-benzyl)-7-trifluoromethyl-2,3-dihydro-isoindol-1-one (0.017 g, 39%). 1H NMR (300 MHz, CDCl3): δ ppm) 1.02 (d, 6H), 2.12 (s, 3H), 2.88 (q, 1H), 3.61 (s, 2H) 4.24 (s, 2H), 4.78 (s, 2H), 7.18 (d, 2H), 7.37 (d, 2H), 7.58 (s, 1H), 7.71 (s, 1H). GC-MS: m/z 445 (4-15)+, 367 (M−93)+.

reactant | 5-aminomethyl-2-(4-trifluoromethoxy-benzyl)-7-trifluoromethyl-2,3-dihydro-isoindol-1-one | 0.1 mmol, 0.040 g | NCC=1C=C2CN(C(C2=C(C1)C(F)(F)F)=O)CC1=CC=C(C=C1)OC(F)(F)F | C18H14F6N2O2
reactant | paraformaldehyde | 0.025 g | C=O | CH2O
reactant | NaCNBH3 | 0.2 mmol, 0.013 g | [BH3-]C#N.[Na+]
reactant | MgSO4 | 0.050 g | [O-]S(=O)(=O)[O-].[Mg+2]
reactant | acetone | 0.5 mL | CC(=O)C | C3H6O
solvent | MeOH | 6 mL | CO | CH4O
solvent | CHCl3 MeOH | C(Cl)(Cl)Cl.CO
product | 5-[(isopropyl-methyl-amino)-methyl]-2-(4-trifluoromethoxy-benzyl)-7-trifluoromethyl-2,3-dihydro-isoindol-1-one | 0.017 g, 39% | C(C)(C)N(C)CC=1C=C2CN(C(C2=C(C1)C(F)(F)F)=O)CC1=CC=C(C=C1)OC(F)(F)F | C22H22F6N2O2
